US07176210B2
Preparation of 3,7-Bis-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine (14A-1)
A mixture of 7-chloro-2-(2-chlorophenyl)-3-iodopyrazolo[1,5-a]pyrimidine (I-1A-1d; 50 mg, 0.13 mmol), 4-chlorophenylboronic acid (30 mg, 0.19 mmol), Na2CO3 (108 mg, 0.67 mmol), and tetrakis(triphenylphosphine)palladium (15 mg, 0.013 mmol) in ethanol (1 ml) and water (0.23 ml) was degassed (3×) by pulling a vacuum followed by refilling with nitrogen gas. The reaction was heated at 72° C. for 2 hr, cooled to room temperature, and then extracted from water with ethyl acetate. The combined organic layers were washed with brine, dried (MgSO4), and then concentrated, in vacuo. Purification on a Chromatotron using 20% ethyl acetate in hexanes as eluant afforded compound 14A-1 (17 mg, 30%) as a solid: +ESI MS (M+1) 450.3; 1H NMR (400 MHz, CD2Cl2) δ 8.62 (d, J=4.1 Hz, 1H), 8.01 (d, J=8.7 Hz, 2H), 7.56 (d, J=8.7 Hz, 2H), 7.51–7.36 (m, 6H), 7.28 (d, J=8.7 Hz, 2H), 7.04 (d, J=4.1 Hz, 1H).

reactant | 7-chloro-2-(2-chlorophenyl)-3-iodopyrazolo[1,5-a]pyrimidine | 0.13 mmol, 50 mg | ClC1=CC=NC=2N1N=C(C2I)C2=C(C=CC=C2)Cl | C12H6Cl2IN3
reactant | 4-chlorophenylboronic acid | 0.19 mmol, 30 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 0.67 mmol, 108 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 0.23 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,7-Bis-(4-chlorophenyl)-2-(2-chlorophenyl)-pyrazolo[1,5-a]pyrimidine | ClC1=CC=C(C=C1)C=1C(=NN2C1N=CC=C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C24H14Cl3N3
